US04343945
5-(2,4-Dichlorobenzamido)-3-Trichloromethyl-1,2,4-Thiadiazole
A solution of 10.9 g (0.05 mole) 5-amino-3-trichloromethyl-1,2,4-thiadiazole and 20.9 g (0.10 mole) 2,4-dichlorobenzoyl chloride was refluxed in 200 ml xylene for 20 hours. The reaction mixture was concentrated in vacuo and the resulting residue extracted with benzene. Addition of hexane resulted in precipitation of 13.6 g (69% yield) pure product; m.p. 136° C.

reactant | 5-amino-3-trichloromethyl-1,2,4-thiadiazole | 0.05 mole, 10.9 g | NC1=NC(=NS1)C(Cl)(Cl)Cl | C3H2Cl3N3S
reactant | 2,4-dichlorobenzoyl chloride | 0.10 mole, 20.9 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-(2,4-Dichlorobenzamido)-3-Trichloromethyl-1,2,4-Thiadiazole | 13.6 g, 69% yield | ClC1=C(C(=O)NC2=NC(=NS2)C(Cl)(Cl)Cl)C=CC(=C1)Cl | C10H4Cl5N3OS
